US07115600B2
(3,3-Dimethoxy-cyclobutyl)-pyrrolidin-1-yl-methanone
To a stirring solution of 3,3-dimethoxy-cyclobutanecarboxylic acid methyl ester, (J. Org. Chem. 1988, 53, 3841 and J. Org. Chem. 1996, 61, 2174) (1.0 g, 5.7 mmol) in acetonitrile (200 mL) was added pyrrolidine (951 uL, 11.5 mmol), followed by magnesium bromide (0.53 g, 2.9 mmol). The reaction was then heated to 60 □C (oil bath) for 18 hours. After 18 hours a second portion of pyrrolidine (1.9 mL, 23 mmol) and magnesium bromide (0.8 g, 4.3 mmol were added. The reaction was then heated to 80 □C (oil bath) for 48 hours. TLC and MS analysis indicated complete consumption of starting material. The reaction was cooled to room temperature and quenched with a saturated solution of NaHCO3, and diluted with CH2Cl2. The layers were separated and the organic layer was dried over magnesium sulfate, filtered through a fritted funnel and concentrated under reduced pressure. Purification of this material was accomplished by flash column chromatography using a 40M Biotage column, eluting with 70% EtOAc/toluene. The product containing fractions were collected and concentrated under reduced pressure to give the title compound (1.0 g, 86% yield) as a colorless oil.

reactant | 3,3-dimethoxy-cyclobutanecarboxylic acid methyl ester | COC(=O)C1CC(C1)(OC)OC | C8H14O4
reactant | pyrrolidine | 11.5 mmol, 951 uL | N1CCCC1 | C4H9N
reactant | magnesium bromide | 2.9 mmol, 0.53 g | [Br-].[Mg+2].[Br-]
reactant | pyrrolidine | 23 mmol, 1.9 mL | N1CCCC1 | C4H9N
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | (3,3-Dimethoxy-cyclobutyl)-pyrrolidin-1-yl-methanone | 1.0 g, 86% yield | COC1(CC(C1)C(=O)N1CCCC1)OC | C11H19NO3
